### PR TITLE
[Merged by Bors] - feat: canonical tensors in inner product spaces

### PR DESCRIPTION
**Pull request by kebekus**
Given an `InnerProductSpace ℝ E`, this file defines two canonical tensors.

* `InnerProductSpace.canonicalContravariantTensor E : E ⊗[ℝ] E →ₗ[ℝ] ℝ`. This is the element corresponding to the inner product.

* If `E` is finite-dimensional, then `E ⊗[ℝ] E` is canonically isomorphic to its dual. Accordingly, there exists an element `InnerProductSpace.canonicalCovariantTensor E : E ⊗[ℝ] E` corresponding to `InnerProductSpace.canonicalContravariantTensor E` under this identification.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. The canonical tensors are useful for defining the Laplace operator on inner product spaces in a coordinate-free way.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/CanonicalTensor.lean [hunk 1]
```diff
@@ -0,0 +1,62 @@
+/-
+Copyright (c) 2025 Stefan Kebekus. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Stefan Kebekus
+-/
+
+import Mathlib.Analysis.InnerProductSpace.PiL2
+
+/-!
+# Canoncial tensors in real inner product spaces
```
Comment (adomani) [inline Mathlib/Analysis/InnerProductSpace/CanonicalTensor.lean:10]:
```suggestion
# Canonical tensors in real inner product spaces
```
just a typo!

Comment (kebekus) [reply Mathlib/Analysis/InnerProductSpace/CanonicalTensor.lean:10]: Thanks!

File: Mathlib/Analysis/InnerProductSpace/CanonicalTensor.lean [hunk 2]
```diff
@@ -0,0 +1,62 @@
...
+  simp_rw [OrthonormalBasis.sum_inner_mul_inner v]
+  have {i} : ∑ j, ⟪w i, w j⟫_ℝ • w i ⊗ₜ[ℝ] w j = w i ⊗ₜ[ℝ] w i := by
+    rw [Fintype.sum_eq_single i, orthonormal_iff_ite.1 w.orthonormal]
+    simp only [↓reduceIte, one_smul]
+    intro _ _
+    simp only [orthonormal_iff_ite.1 w.orthonormal, ite_smul, one_smul, zero_smul,
+      ite_eq_right_iff]
+    tauto
+  simp_rw [this]
+  rfl
```
Comment (loefflerd) [inline Mathlib/Analysis/InnerProductSpace/CanonicalTensor.lean:62]: I'm not really a fan of `conv`, I think it results in hard-to-read proofs. What do you think of the following alternative using `calc`?
```suggestion
  let w := stdOrthonormalBasis ℝ E
  calc ∑ m, w m ⊗ₜ[ℝ] w m
  _ = ∑ m, ∑ n, ⟪w m, w n⟫_ℝ • w m ⊗ₜ[ℝ] w n := by
    congr 1 with m
    rw [Fintype.sum_eq_single m _, orthonormal_iff_ite.1 w.orthonormal]
    · simp only [↓reduceIte, one_smul]
    simp only [orthonormal_iff_ite.1 w.orthonormal, ite_smul, one_smul, zero_smul,
      ite_eq_right_iff]
    tauto
  _ = ∑ m, ∑ n, (∑ i, ⟪w m, v i⟫_ℝ * ⟪v i, w n⟫_ℝ) • w m ⊗ₜ[ℝ] w n := by
    simp_rw [OrthonormalBasis.sum_inner_mul_inner v]
  _ = ∑ m, ∑ n, (∑ i, ⟪w m, v i⟫_ℝ * ⟪w n, v i⟫_ℝ) • w m ⊗ₜ[ℝ] w n := by
    simp only [real_inner_comm (w _)]
  _ = ∑ i, (∑ m, ⟪w m, v i⟫_ℝ • w m) ⊗ₜ[ℝ] ∑ n, ⟪w n, v i⟫_ℝ • w n := by
    simp only [sum_tmul, tmul_sum, smul_tmul_smul, Finset.sum_comm (γ := ι), Finset.sum_smul]
    rw [Finset.sum_comm]
  _ = ∑ i, v i ⊗ₜ[ℝ] v i := by
    simp only [w.sum_repr' (v _)]
```

Comment (kebekus) [reply Mathlib/Analysis/InnerProductSpace/CanonicalTensor.lean:62]: Splendid! Thanks for the help.

File: Mathlib/Analysis/InnerProductSpace/CanonicalTensor.lean [hunk 3]
```diff
@@ -0,0 +1,61 @@
...
+noncomputable def InnerProductSpace.canonicalContravariantTensor :
+    E ⊗[ℝ] E →ₗ[ℝ] ℝ := lift bilinFormOfRealInner
+
+/-- The canonical covariant tensor corresponding to `InnerProductSpace.canonicalContravariantTensor`
+under the identification of `E` with its dual -/
+noncomputable def InnerProductSpace.canonicalCovariantTensor [FiniteDimensional ℝ E] :
+    E ⊗[ℝ] E := ∑ i, ((stdOrthonormalBasis ℝ E) i) ⊗ₜ[ℝ] ((stdOrthonormalBasis ℝ E) i)
+
+/-- Representation of the canonical covariant tensor in terms of an orthonormal basis. -/
+theorem InnerProductSpace.canonicalCovariantTensorRepresentation [FiniteDimensional ℝ E]
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/CanonicalTensor.lean:41]:
```suggestion
theorem InnerProductSpace.canonicalCovariantTensor_eq_sum [FiniteDimensional ℝ E]
```
If you change this, don't forget to change it also in the file-level docstring.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/Analysis/InnerProductSpace/CanonicalTensor.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/InnerProductSpace/CanonicalTensor.lean]: Done. Also changed the docstring.

**Comment by kebekus** [comment]
Thanks to everyone for helping!

bors r+
